US07138408B2
9-(4-Methylbenzyl)-N-Hydroxy-9H-β-carboline-3-carboxamide
To a stirred solution of ethyl 9H-β-carboline-3-carboxylate (400 mg, 1.67 mmol) in DMF (5 mL) under a nitrogen atmosphere was added NaH (73 mg, 60% in mineral oil, 1.76 mmol) portionwise, followed by 4-methylbenzyl bromide (308 mg, 1.67 mmol). Stirring was continued for 48 hours at ambient temperature, water (50 mL) was then added to the mixture. The precipitate was filtered, washed with water and dried to give a solid that was dissolved in methanol (35 mL). To the resulting solution, NaOH (2N, 1 mL) and H2NOH (35 mL, 50 wt. % solution in H2O, 0.53 mol) were added. The suspension was stirred for 7 days at ambient temperature. The mixture was then filtered and dried to the title product (0.20 g, 36%). 1H NMR (400 MHz, DMSO-d6): δ 11.25 (1H, s), 8.95–9.03 (2H, m), 8.83 (1H, s), 8.45 (1H, d, J=8 Hz), 7.05–7.81 (7H, m), 5.78 (2H, s), 2.21 (3H, s). HRMS (M+H)+ found: 332.1400. Calcd for C20H18N3O2: 332.1399.

reactant | ethyl 9H-β-carboline-3-carboxylate | 1.67 mmol, 400 mg | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)OCC | C14H12N2O2
reactant | NaH | 1.76 mmol, 73 mg | [H-].[Na+]
reactant | 4-methylbenzyl bromide | 1.67 mmol, 308 mg | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | NaOH | 2N, 1 mL | [OH-].[Na+]
reactant | H2NOH | 0.53 mol, 35 mL | NO | H3NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 35 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 9-(4-Methylbenzyl)-N-Hydroxy-9H-β-carboline-3-carboxamide | CC1=CC=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)C(=O)NO)C=C1 | C20H17N3O2
